US07902369B2
1-(2-fluoropyridine-3-yl)-4-(2-methyl-2-methylcarbonyloxy-1-oxoindane-5-yl)-5-methyl-1H-[1,2,3]triazole
At room temperature, 3 mg of 60% of sodium hydride was added to 1 ml solution of dimethylformamide with 10 mg of 1-(2-fluoropyridine-3-yl)-4-(1-oxo-2-methylcarbonyloxy-indane-5-yl)-5-methyl-1H-[1,2,3]triazole, obtained in Example 45. After stirring 30 min at room temperature, 5 drops of methyl iodide was added and the mixture was further stirred for 1 hour at room temperature.

reactant | sodium hydride | 3 mg | [H-].[Na+]
reactant | 1-(2-fluoropyridine-3-yl)-4-(1-oxo-2-methylcarbonyloxy-indane-5-yl)-5-methyl-1H-[1,2,3]triazole | 10 mg | FC1=NC=CC=C1N1N=NC(=C1C)C=1C=C2CC(C(C2=CC1)=O)OC(=O)C | C19H15FN4O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | methyl iodide | 5 drops | CI | CH3I
product | 1-(2-fluoropyridine-3-yl)-4-(2-methyl-2-methylcarbonyloxy-1-oxoindane-5-yl)-5-methyl-1H-[1,2,3]triazole | FC1=NC=CC=C1N1N=NC(=C1C)C=1C=C2CC(C(C2=CC1)=O)(OC(=O)C)C | C20H17FN4O3
